US07612211B2
E. 1-{2-[2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazol-5-yl]-phenyl}-ethane-1,2-diol (Cpd 150)
A solution of 2-hydroxy-1-{2-[2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazol-5-yl]-phenyl}-ethanone (0.082 g, 0.192 mmol) in ethanol (6 mL) was added sodium borohydride (0.029 g, 0.769 mmol) at 0° C. After stirring for 20 min, the reaction was quenched by water. EtOAc was added to dilute and the organic layer was washed with brine, dried over Na2SO4, and concentrated under reduced pressure to provide a residue, which was purified by chromatography (silica, CH2Cl2: MeOH, 10:1) to afford the title compound as a pale yellow oil (0.075 g, 91%). 1H NMR (400 MHz, CD3OD) δ (ppm): 7.64-7.61 (m, 4H), 7.40 (dt, 1H, J=8.4 Hz, J=1.6 Hz), 7.32 (dt, 1H, J=8.2 Hz, J=1.6 Hz), 7.26-7.23 (m, 5H), 5.45 (s, 2H), 4.86 (dd, 1H, J=6.8 Hz, J=1.2 Hz), 3.58-3.55 (m, 1H), 1.60-1.57 (m, 1H). Mass Spectrum (LCMS, ESI pos.) Calcd. For C23H20F3N2O3: 429.4 (M+H), Found 429.1.

reactant | 2-hydroxy-1-{2-[2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazol-5-yl]-phenyl}-ethanone | 0.192 mmol, 0.082 g | OCC(=O)C1=C(C=CC=C1)C1=CC2=C(NC(=N2)COC2=CC=C(C=C2)C(F)(F)F)C=C1 | C23H17F3N2O3
reactant | sodium borohydride | 0.769 mmol, 0.029 g | [BH4-].[Na+]
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | 1-{2-[2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazol-5-yl]-phenyl}-ethane-1,2-diol | 0.075 g, 91% | FC(C1=CC=C(OCC2=NC3=C(N2)C=CC(=C3)C3=C(C=CC=C3)C(CO)O)C=C1)(F)F | C23H19F3N2O3
